US07425551B2
a) [(S)-5-[2-(4-fluoro-phenoxy)-ethyl]-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-carbamic acid tert-butyl ester
Using ((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-carbamic acid tert-butyl ester and 4-fluorophenoxy-ethylbromide, the title product was prepared in the same manner as described for example 1a (84%). White solid. MS: m/e=463(M+H+).

reactant | ((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C19H20N2O3
reactant | 4-fluorophenoxy-ethylbromide | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
product | [(S)-5-[2-(4-fluoro-phenoxy)-ethyl]-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C2=C(C3=C(N(C1=O)CCOC1=CC=C(C=C1)F)C=CC=C3)C=CC=C2)=O | C27H27FN2O4
